US08283475B2
N-[2-(6-Amino-3-methoxy-2H-indazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (compound No 2.034)
A mixture of N-[1-cyano-2-(3-methoxy-6-nitro-2H-indazol-2-yl)-1-methylethyl]-4-trifluoromethoxybenzamide (30 mg) described in Example 128 and palladium on charcoal in methanol (2 mL) were stirred at room temperature under hydrogen for 2.5 hours. The reaction mixture was filtered through a plug of Celite® and concentrated under reduced pressure to yield a residue that was purified by chromatography (SiO2, heptane/EA) to afford the title compound as a white solid (18 mg, 64%). MS (ES): M/Z [M+H]=434. 1H NMR: (400 MHz, CHLOROFORM-d): 1.88 (s, 3H), 4.38 (s, 3H), 4.41 (d, 1H), 4.72 (d, J=14.2 Hz, 1H), 6.48 (dd, J=9.0, 1.8 Hz, 1H), 6.53 (d, J=1.2 Hz, 1H), 7.31 (d, J=8.3 Hz, 2H), 7.55 (d, J=9.0 Hz, 1H), 7.98 (d, J=8.8 Hz, 2H) and 9.43 (s, 1H). 19F NMR (376 MHz, CHLOROFORM-d): −58.0 (s, 3F).

reactant | N-[1-cyano-2-(3-methoxy-6-nitro-2H-indazol-2-yl)-1-methylethyl]-4-trifluoromethoxybenzamide | 30 mg | C(#N)C(CN1N=C2C=C(C=CC2=C1OC)[N+](=O)[O-])(C)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C20H16F3N5O5
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | N-[2-(6-Amino-3-methoxy-2H-indazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 18 mg, 64% | NC=1C=CC2=C(N(N=C2C1)CC(C)(C#N)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)OC | C20H18F3N5O3
